US07939661B2
Step 1: 4-(6-Morpholin-4-yl-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a degassed solution of 4-(5-bromo-pyridin-2-yl)-morpholine (4.47 g, 18.39 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (4.42 g, 22.07 mmol, 1.2 equiv; commercially available) in toluene (40 mL) was added KOtert-Bu (5.16 g, 46.00 mmol, 2.5 equiv), dicyclohexyl-(2′,4′,6′-triisopropyl-biphenyl-2-yl)-phosphane (0.18 g, 0.37 mmol, 0.02 equiv; X-Phos ligand [CAS RN 564483-18-7]; commercially available from Strem Chemicals, USA) and tris(dibenzylideneacetone)dipalladium(0) (1.52 g, 1.47 mmol, 0.08 equiv). The reaction mixture was stirred under nitrogen at 100° C. for 16 h, cooled to rt, filtered and the filtrate concentrated by evaporation under reduced pressure. The crude material was purified with silica column chromatography eluting with dichloromethane/methanol (20:1+0.5% triethylamine) to provide 1.60 g (24%) of the title compound in 90% purity according to 1H NMR. 1H NMR (400 MHz, CH3OD): δ 1.20-1.37 (m, 2H), 1.46 (s, 9H), 1.95 (dd, J=13.0 Hz, J=2.7 Hz, 2H), 2.94 (br s, 2H), 3.21-3.28 (m, 4H), 3.32-3.41 (m, 1H), 3.73-3.84 (m, 4H), 4.01 (d, J=13.4 Hz, 2H), 6.74 (d, J=9.0 Hz, 1H), 7.12 (dd, J=9.0 Hz, J=2.9 Hz, 1H), 7.68 (d, J=2.7 Hz, 1H). MS (ISP): 363.3 [M+H]+.

reactant | 4-(5-bromo-pyridin-2-yl)-morpholine | BrC=1C=CC(=NC1)N1CCOCC1 | C9H11BrN2O
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | KOtert-Bu | 46.00 mmol, 5.16 g, 2.5 equiv | O([K])C(C)(C)C
reactant | dicyclohexyl-(2′,4′,6′-triisopropyl-biphenyl-2-yl)-phosphane | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | X-Phos | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.47 mmol, 1.52 g, 0.08 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(6-Morpholin-4-yl-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.60 g, 24% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=NC(=CC1)N1CCOCC1 | C19H30N4O3
